US04560685
6-Chloro-2-piperazino-4-thiomorpholino-7-dimethylamino-pteridine
This compound was prepared analogous to Example 1 from 2,6-dichloro-4-thiomorpholino-7-dimethylamino-pteridine and piperazine.

reactant | 2,6-dichloro-4-thiomorpholino-7-dimethylamino-pteridine | ClC1=NC2=NC(=C(N=C2C(=N1)N1CCSCC1)Cl)N(C)C | C12H14Cl2N6S
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 6-Chloro-2-piperazino-4-thiomorpholino-7-dimethylamino-pteridine | ClC=1N=C2C(=NC(=NC2=NC1N(C)C)N1CCNCC1)N1CCSCC1 | C16H23ClN8S
